US06331521B1
To a solution of 4′-ethoxycarbonyl-2-bromoacetophenone (2.0 g) in N,N-dimethylformamide (8 ml) was added sodium azide (480 mg) at 0° C., and stirred for 2 hours at room temperature. The reaction mixture was poured into water (100 ml), extracted with diethyl ether (200 ml×2), washed with brine, and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The product was purified by silica gel column chromatography (ethyl acetate:hexane=1:5) to give 2-azido-4′-ethoxycarbonylacetophenone (1.46 g).

reactant | 4′-ethoxycarbonyl-2-bromoacetophenone | 2.0 g | C(C)OC(=O)C1=CC=C(C=C1)C(CBr)=O | C11H11BrO3
reactant | sodium azide | 480 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-azido-4′-ethoxycarbonylacetophenone | 1.46 g | N(=[N+]=[N-])CC(=O)C1=CC=C(C=C1)C(=O)OCC | C11H11N3O3
